US04042618
Using the same apparatus as described in Example I, the flask is charged with 4000 parts of water and 1318 parts of potassium hydroxide (85%). The mixture is stirred until a solution is obtained. To the flask then is added 2670 parts of a 65% aqueous solution of p-phenolsulfonic acid, followed by 1100 parts of 3-chloro-1,2-propanediol. The resultant solution is refluxed for about 24 hours. The pH is adjusted to 8 by adding 25% aqueous potassium hydroxide solution. The solution is concentrated by heating under reduced pressure and then is cooled to 20°-25° C. by placing the flask in a cold water-bath. Solid precipitates. The solid is isolated by suction filtration and washed three times with 4:1 ethanol-water. The dried product, 3-(4-potassiosulfophenoxy)-1,2-propanediol, is obtained in a yield of 2030 parts and with a purity of 97%, based upon adjacent hydroxyl group analysis; chloride content is 0.03%. Thermal gravimetric analysis of the product shows that there is no weight loss at 300° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | p-phenolsulfonic acid | C1=CC(=CC=C1O)S(=O)(=O)O | C6H6O4S
reactant | 3-chloro-1,2-propanediol | ClCC(CO)O | C3H7ClO2
solvent | water | O | H2O
product | 3-(4-potassiosulfophenoxy)-1,2-propanediol | [K]C1=CC(=C(OCC(CO)O)C=C1)S(=O)(=O)O | InChI=1S/C9H11O6S.K/c10-5-7(11)6-15-8-3-1-2-4-9(8)16(12,13)14;/h1,3-4,7,10-11H,5-6H2,(H,12,13,14);
